US09403798B2
4-[4-(4-Fluorophenyl)-4-hydroxypiperidin-1-yl]-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one
4-[4-(4-Fluorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one (426 mg, 1.18 mmol) synthesized in Reference Synthesis Example 14 and 1-(chloromethyl)-3-(trifluoromethyl)-1H-pyrazole (219 mg, 1.18 mmol) were used to obtain the title compound (158 mg, yield 30%) by synthesis in a similar manner to Reference Synthesis Example 8.

reactant | 4-[4-(4-Fluorophenyl)-4-hydroxypiperidin-1-yl]-1,3,5-triazin-2(1H)-one | 1.18 mmol, 426 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(NC=N1)=O)O | C14H15FN4O2
reactant | 1-(chloromethyl)-3-(trifluoromethyl)-1H-pyrazole | 1.18 mmol, 219 mg | ClCN1N=C(C=C1)C(F)(F)F | C5H4ClF3N2
product | 4-[4-(4-Fluorophenyl)-4-hydroxypiperidin-1-yl]-1-{[3-(trifluoromethyl)-1H-pyrazol-1-yl]methyl}-1,3,5-triazin-2(1H)-one | 158 mg, yield 30% | FC1=CC=C(C=C1)C1(CCN(CC1)C1=NC(N(C=N1)CN1N=C(C=C1)C(F)(F)F)=O)O | C19H18F4N6O2
